US08252810B2
Trifluoromethanesulfonic acid (R)-3-benzyloxy-2-fluoropropyl ester
After dissolving (S)-3-benzyloxy-2-fluoropropan-1-ol (CAS 197389-28-9) (2.62 g) in dichloromethane (40 ml), pyridine (1.26 ml) was added. Trifluoromethanesulfonic anhydride (2.63 ml) was added dropwise while stirring on ice, and the mixture was stirred for 1 hour. Ice water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (4.38 g).

reactant | (S)-3-benzyloxy-2-fluoropropan-1-ol | 2.62 g | C(C1=CC=CC=C1)OC[C@H](CO)F | C10H13FO2
reactant | Trifluoromethanesulfonic anhydride | 2.63 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | pyridine | 1.26 ml | N1=CC=CC=C1 | C5H5N
product | Trifluoromethanesulfonic acid (R)-3-benzyloxy-2-fluoropropyl ester | 4.38 g | C(C1=CC=CC=C1)OC[C@H](COS(=O)(=O)C(F)(F)F)F | C11H12F4O4S
